US05214156
cis-5-Methoxy-1-methyl-2-(N-cyclopropylmethylamino)tetralin
To a solution of 5-methoxy-1-methyl-2-tetralone (2.0 g) in absolute ethanol (50 ml) are added acetic acid (1.9 g), cyclopropylmethylamine (2.0 g) and 4 Å molecular sieves. The mixture is heated in a closed flask at 80° C. for one hour. The molecular sieves are filtered off and the solution is hydrogenated (PtO2) at atmospheric pressure. The catalyst is filtered off (Celite) and the volatiles are evaporated. Dilute hydrochloric acid (50 ml) is added to the solid residue. The resulting acidic solution is washed with ether, made basic 5% sodium hydroxide and extracted twice with ether. The ether extracts are combined, dried (sodium sulfate) and evaporated. The resulting crude base is eluted through an alumina column with ether-light petroleum (1:4).

reactant | 5-methoxy-1-methyl-2-tetralone | 2.0 g | COC1=C2CCC(C(C2=CC=C1)C)=O | C12H14O2
reactant | acetic acid | 1.9 g | C(C)(=O)O | C2H4O2
reactant | cyclopropylmethylamine | 2.0 g | C1(CC1)CN | C4H9N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | cis-5-Methoxy-1-methyl-2-(N-cyclopropylmethylamino)tetralin | COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)NCC1CC1 | C16H23NO
